US03947416
Preparation of 5-Azaisatoic Anhydride
A 50 ml. flask was charged with 2.6 g. lead tetra-acetate suspended in 10 ml. dimethylformamide and stirred while a solution of 0.96 g. of 4-carbamylnicotinic acid in 5 ml. dimethylformamide was added dropwise during 10 minutes. The mixture was stirred for 10 minutes after completion of the addition, then poured onto 40 g. crushed ice. A precipitate of cream solids was collected by filtration, washed with water and dried in vacuo. The yield of 5-azaisatoic anhydride amounted to 0.68 g., melting point 180° with decomposition, and represented 72 percent of theory. On attempted purification by crystallization from organic solvents, extensive decomposition occurred. The structure was confirmed by elemental analysis, infra-red spectroscopy and mass spectrometry.

reactant | lead tetra-acetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | 4-carbamylnicotinic acid | C(N)(=O)C1=CC=NC=C1C(=O)O | C7H6N2O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-Azaisatoic Anhydride | C1=2C(=O)OC(NC1=CC=NC2)=O | C7H4N2O3
